US07115597B2
2-[6-(4-Methyl-piperazin-1-yl)-pyrimidin-4-ylamino]-thiazole-5-carbonitrile (22-6)
6-(4-Methyl-piperazin-1-yl)-pyrimidin-4-ylamine (97 mg, 0.50 mmol) was stirred in 2 mL anhydrous THF under N2. Sodium hydride (43 mg, 60% dispersion, 1.10 mmol) was added and after stirring for 30 minutes, 2-chloro-thiazole-5-carbonitrile (87 mg, 0.60 mmol). After LCMS indicated complete conversion, the reaction was quenched with MeOH, neutralized with 10% citric acid (aq). The resulting precipitate was filtered, washed with water and after air drying was washed with hexane. 1H-NMR (400 MHz, DMSO) 12.00 (1H, s), 8.42 (1H, s), 8.25 (1H, s), 6.21 (1H, s), 3.54 (m, 4H), 2.39 (m, 4H), 2.21 (s, 3H). M+1=302.3.

reactant | 6-(4-Methyl-piperazin-1-yl)-pyrimidin-4-ylamine | 0.50 mmol, 97 mg | CN1CCN(CC1)C1=CC(=NC=N1)N | C9H15N5
reactant | Sodium hydride | 1.10 mmol, 43 mg | [H-].[Na+]
reactant | 2-chloro-thiazole-5-carbonitrile | 0.60 mmol, 87 mg | ClC=1SC(=CN1)C#N | C4HClN2S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-[6-(4-Methyl-piperazin-1-yl)-pyrimidin-4-ylamino]-thiazole-5-carbonitrile | CN1CCN(CC1)C1=CC(=NC=N1)NC=1SC(=CN1)C#N | C13H15N7S
